US07576215B2
2) Preparation of Ethyl 4-phenyl-8-(trifluoromethyl)quinoline-3-carboxylate.
Ethyl 8-(trifluoromethyl)-4-{[(trifluoromethyl)sulfonyl]oxy}quinoline-3-carboxylate (45.6 g, 109.3 mmol) was taken into dioxane (500 mL). Then phenylboronic acid (26.7 g, 218.6 mmol), K3PO4 (69.6 g, 327.9 mmol) and Pd(PPh3)4 (6.3 g, 5.5 mmol) was added and the reaction was brought to reflux for 1 hour. The reaction was filtered through Celite was still warm and concentrated. The resulting material was passed through a short silica gel plug and concentrated to yield the desired product as a brown viscous liquid (35.96 g). MS (ESI) m/z 346 ([M+H]+).

reactant | Ethyl 8-(trifluoromethyl)-4-{[(trifluoromethyl)sulfonyl]oxy}quinoline-3-carboxylate | 109.3 mmol, 45.6 g | FC(C=1C=CC=C2C(=C(C=NC12)C(=O)OCC)OS(=O)(=O)C(F)(F)F)(F)F | C14H9F6NO5S
reactant | phenylboronic acid | 218.6 mmol, 26.7 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 327.9 mmol, 69.6 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(PPh3)4 | 5.5 mmol, 6.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | Ethyl 4-phenyl-8-(trifluoromethyl)quinoline-3-carboxylate | 35.96 g | C1(=CC=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)OCC | C19H14F3NO2
